US06768025B2
1.200 g (4.3 mmol) of potassium tert-butoxide and 1.917 g (4.3 mmol) of 2,2,3,3-tetrafluoropropyl perfluorobutanesulfonate were introduced into 30 ml of DMF in a vessel. At RT, 1200 g (4.3 mol) of methyl 2-chloro-3-hydroxy-4-ethylsulfonylbenzoate were added and the mixture was then heated at 120° C. for 7 h. It was subsequently introduced into water and subjected to extraction with diisopropyl ether. The combined organic phases were washed with water, dried over Na2SO4, and concentrated. Drying under an oil pump vacuum gave methyl 2-chloro-3-(2,2,3,3-tetrafluoropropyloxy)-4-ethylsulfonylbenzoate as a brown oil.

reactant | potassium tert-butoxide | 4.3 mmol, 1.200 g | CC(C)([O-])C.[K+]
reactant | 2,2,3,3-tetrafluoropropyl perfluorobutanesulfonate | 4.3 mmol, 1.917 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OCC(C(F)F)(F)F)F | C7H3F13O3S
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | methyl 2-chloro-3-hydroxy-4-ethylsulfonylbenzoate | 4.3 mol, 1200 g | ClC1=C(C(=O)OC)C=CC(=C1O)S(=O)(=O)CC | C10H11ClO5S
solvent | water | O | H2O
product | methyl 2-chloro-3-(2,2,3,3-tetrafluoropropyloxy)-4-ethylsulfonylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1OCC(C(F)F)(F)F)S(=O)(=O)CC | C13H13ClF4O5S
